US09024027B2
To a mixture of 2-(5-(benzyloxy)-1H-indol-1-yl)acetic acid (164 mg, 0.583 mmol) in DCM (20 ml), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (245 mg, 0.583 mmol), EDC (335 mg, 1.749 mmol) and DMAP (35.6 mg, 0.291 mmol) were added, and the reaction was stirred at room temperature for 5 hours. The organic solution was washed with NaHCO3 sat. sol. and 1N HCl, dried over Na2SO4, filtered and evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH from 99.5:0.5 to 98.5:1.5) affording (S)-4-(2-(2-(5-(benzyloxy)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (319 mg, 0.467 mmol, 80% yield). MS/ESI+ 683.0 [MH]+.

reactant | 2-(5-(benzyloxy)-1H-indol-1-yl)acetic acid | 0.583 mmol, 164 mg | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)CC(=O)O | C17H15NO3
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.583 mmol, 245 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.749 mmol, 335 mg
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.291 mmol, 35.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-4-(2-(2-(5-(benzyloxy)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.467 mmol, 319 mg, 80% yield | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C35H30Cl2F2N2O6
